US07528147B2
2-[1-(3-Chloropropyl)-5,6-dimethoxy-1H-indol-3-yl]-1-(toluene-4-sulfonyl)—1H-pyrrolo[2,3-b]pyridine (0.395 g; 753.8 μmol) and sodium iodide (0.169 g; 1.13 mmol) in methyl ethyl ketone (10 ml) are placed in a 50 ml single-necked flask, at reflux. After 16 hours, sodium iodide (0.169 g; 1.13 mmol) is added and reflux is maintained for a further 5 hours. The reaction mixture is evaporated under reduced pressure and the residue is then dissolved in 50 ml of ethyl acetate, transferred into a separating funnel and washed with 2 times 30 ml of distilled water. The organic extract is dried over magnesium sulfate, filtered and evaporated under reduced pressure, to give the crude compound, which is purified by chromatography on silica gel (10 μg, silica 20-40 μm), elution being carried out at 10 ml/min with a mixture of cyclohexane and ethyl acetate (70/30; v/v). The fractions containing the expected compound are combined and evaporated to give 2-[1-(3-iodopropyl)-5,6-dimethoxy-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine in the form of an amorphous solid (0.287 g, 62%), the characteristics of which are as follows:

reactant | 2-[1-(3-Chloropropyl)-5,6-dimethoxy-1H-indol-3-yl]-1-(toluene-4-sulfonyl)—1H-pyrrolo[2,3-b]pyridine | 753.8 μmol, 0.395 g | ClCCCN1C=C(C2=CC(=C(C=C12)OC)OC)C1=CC=2C(=NC=CC2)N1S(=O)(=O)C1=CC=C(C=C1)C | C27H26ClN3O4S
reactant | sodium iodide | 1.13 mmol, 0.169 g | [I-].[Na+]
reactant | sodium iodide | 1.13 mmol, 0.169 g | [I-].[Na+]
solvent | methyl ethyl ketone | 10 ml | C(C)C(=O)C | C4H8O
product | 2-[1-(3-iodopropyl)-5,6-dimethoxy-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | ICCCN1C=C(C2=CC(=C(C=C12)OC)OC)C1=CC=2C(=NC=CC2)N1S(=O)(=O)C1=CC=C(C=C1)C | C27H26IN3O4S
